US07211672B2
(±)-Cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid was prepared from (±)-cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester following the saponification procedure described above for the synthesis of (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid.

reactant | (±)-cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid ethyl ester | C(C)OC(COC1=CC=C2[C@@H](C[C@@H](N(C2=C1)C(C1=CC=C(C=C1)N(C)C)=O)C)N(C1=CC=C(C=C1)Cl)C(C)=O)=O | C31H34ClN3O5
reactant | (±)-cis-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yloxy]-acetic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)OCC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C28H26ClFN2O5
product | (±)-Cis-[4-[acetyl-(4-chloro-phenyl)-amino]-1-(4-dimethylamino-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-7-yloxy]-acetic acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC(=CC=C12)OCC(=O)O)C(C1=CC=C(C=C1)N(C)C)=O)C)C1=CC=C(C=C1)Cl | C29H30ClN3O5
